US05731351
6.0 g of N-diaminomethylene-2-methyl-4-ethynyl-5-methylsulfonylbenzamide, m.p. 223°-226° [obtainable by reaction of methyl 2-methyl-4-bromo-5-methylsulfonyl-benzoate with Li acetylide to give methyl 2-methyl-4-ethynyl-5-methylsulfonyl-benzoate and subsequent reaction with guanidine] are dissolved in 300 ml of DMF and hydrogenated in the presence of 450 mg of Pd-CaCO3 (Lindlar catalyst) for 15 minutes in a stream of hydrogen (p=1 bar). Customary working up gives N-diaminomethylene-2-methyl-4-ethenyl-5-methylsulfonyl-benzamide).

reactant | N-diaminomethylene-2-methyl-4-ethynyl-5-methylsulfonylbenzamide | 6.0 g | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)C#C)C)=O)N | C12H13N3O3S
reactant | methyl 2-methyl-4-bromo-5-methylsulfonyl-benzoate | CC1=C(C(=O)OC)C=C(C(=C1)Br)S(=O)(=O)C | C10H11BrO4S
reactant | methyl 2-methyl-4-ethynyl-5-methylsulfonyl-benzoate | CC1=C(C(=O)OC)C=C(C(=C1)C#C)S(=O)(=O)C | C12H12O4S
reactant | guanidine | NC(=N)N | CH5N3
reactant | hydrogen | [H][H] | H2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
catalyst | Pd CaCO3 | 450 mg | [Pd].C(=O)([O-])[O-].[Ca+2]
product | N-diaminomethylene-2-methyl-4-ethenyl-5-methylsulfonyl-benzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)C=C)C)=O)N | C12H15N3O3S
